* Ten-Tec 80287 TX-RX mixer magnetic starting models.
*
* L87-2 is the continuous center-tapped transmitter-mixer collector choke.
* Pin order follows the project symbol: end 1, end 2, center tap.
* The manual does not give inductance, winding resistance, coupling, core
* material, or parasitic capacitance. The values below are explicitly
* estimated starting values for functional simulation, not factory data.

.subckt TXRX_L2_CT 1 2 3
LTOP 1 NT 10u
RTOP NT 3 1
LBOT 3 NB 10u
RBOT NB 2 1
KCT LTOP LBOT 0.98
CEND 1 2 2p
.ends TXRX_L2_CT
