* Hewlett-Packard 5082-3379 RF PIN diode -- empirical two-terminal model.
*
* External node order follows the KiCad diode symbol:
*   1 = K (cathode), 2 = A (anode)
*
* Manufacturer-data anchors:
*   Breakdown voltage:                 50 V minimum
*   Total capacitance at 50 V, 1 MHz: 0.4 pF maximum
*   Effective carrier lifetime:        1300 ns typical
*   Package inductance/capacitance:    2.5 nH / 0.13 pF typical
*   RF resistance: current controlled; approximately 8 ohms at 1 mA
*                  and approximately 1000 ohms at 0.01 mA.
*
* RRF uses a 100 us low-pass estimate of forward current so its resistance
* follows AGC bias but not the 9 MHz carrier.  The 8 mV/I law matches the two
* tabulated RF-resistance endpoints.  A 0.4 ohm floor prevents an unrealistically
* small resistance above the characterized current range.
*
* This is not an HP/Agilent factory SPICE model.  It is intended for AGC
* attenuation trends at 9 MHz, not distortion, noise, switching-power, or
* temperature-limit predictions.
*
*                    K A
.SUBCKT HP5082_3379  1 2

* Outline-15 package parasitics.
LPKG 2 AINT 2.5n
CPKG 2 1 0.13p

* DC junction and stored charge.  CJO is chosen so junction plus package
* capacitance is approximately 0.4 pF at 50 V reverse bias.
DCORE AINT N1 HP5082_3379_CORE
.MODEL HP5082_3379_CORE D(
+ IS=5p N=1.5 RS=0.2
+ CJO=1.0p VJ=1.0 M=0.33 FC=0.5
+ TT=1.3u BV=50 IBV=10u
+)

* Sense diode current, remove its RF component, then set the conductivity-
* modulated intrinsic-region resistance from the resulting bias current.
VSENSE N1 N2 0
BIMON ICTRL 0 V={abs(I(VSENSE))}
RCTRL ICTRL IAVG 1k
CCTRL IAVG 0 100n
RRF N2 1 R={max(0.4,8m/max(V(IAVG),1n))}

.ENDS HP5082_3379
