* MC1747 / MC1747C dual operational-amplifier macromodel.
*
* Five-pin core source:
*   C:\Ham Radio\KiCad-Spice-Library\Models\uncategorized\spice_complete\MOTOR.LIB
*   Original source tag: MC1747; MC1747; Opamps; Motorola; Internal Comp.
*   Core pins: noninverting input, inverting input, VCC, VEE, output.
*
* Project modification, 2026-08-16:
*   The original five-pin core was renamed MC1747_CORE and instantiated twice
*   in a fourteen-pin MC1747 package wrapper.  The wrapper preserves the
*   Motorola DIP pinout, separate VCC A/VCC B pins, and common VEE pin.
*   The source core does not model offset adjustment, so physical pins
*   3, 5, 8, and 14 are retained through 1 teraohm stabilization resistors.
*   Physical pin 11 is NC and is likewise stabilized without functional use.
*
* The source aggregator does not establish a license for this individual
* model.  Preserve this provenance note and review redistribution separately
* before including this file in a public release.

* MC1747 single-amplifier core
* Connections: 1=+IN, 2=-IN, 3=VCC, 4=VEE, 5=OUT
.SUBCKT MC1747_CORE 1 2 3 4 5
C1   11 12 10.50E-12
C2    6  7 31.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) 3 0 4 0 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 23.81E6 -20E6 20E6 20E6 -20E6
GA    6  0 11 12 224.0E-6
GCM   0  6 10 99 7.083E-9
IEE  10  4 DC 15.66E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 4.464E3
RC2   3 12 4.464E3
RE1  13 10 1.116E3
RE2  14 10 1.116E3
REE  10 99 12.77E6
RO1   8  5 37.50
RO2   7 99 37.50
RP    3  4 18.17E3
VB    9  0 DC 0
VC    3 53 DC 2.6
VE   54  4 DC 2.6
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=96.87)
.ENDS MC1747_CORE

* Motorola fourteen-pin DIP order:
*  1 -IN A       8 OFFSET B
*  2 +IN A       9 VCC B
*  3 OFFSET A   10 OUT B
*  4 VEE        11 NC
*  5 OFFSET B   12 OUT A
*  6 +IN B      13 VCC A
*  7 -IN B      14 OFFSET A
.SUBCKT MC1747 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XA 2 1 13 4 12 MC1747_CORE
XB 6 7 9 4 10 MC1747_CORE
RNULLA1 3  4 1T
RNULLB1 5  4 1T
RNULLB2 8  4 1T
RNC11   11 4 1T
RNULLA2 14 4 1T
.ENDS MC1747
