* MC1496 / MC1496P balanced modulator-demodulator
* Nominal ngspice-compatible transistor-level model for the Ten-Tec 80289 VFO.
*
* Physical DIP-14 pin order:
*   1 signal+, 2 gain adjust, 3 gain adjust, 4 signal-, 5 bias,
*   6 output+, 7 NC, 8 carrier+, 9 NC, 10 carrier-, 11 NC,
*   12 output-, 13 NC, 14 VEE.
*
* Topology follows onsemi MC1496/D Figure 23:
*   - four-transistor upper switching quad
*   - two-transistor lower signal differential stage
*   - two emitter-degenerated current-source transistors
*   - the Figure 23 bias diode represented by a diode-connected NPN
*
* Pins 7, 9, 11, and 13 are intentionally unused. The model includes a
* nominal 0.2 percent mismatch in one switching transistor so an external
* carrier-balance adjustment has a finite, observable null.

.SUBCKT MC1496P 1 2 3 4 5 6 7 8 9 10 11 12 13 14

* Upper carrier-switching quad. Collectors are cross-coupled.
QSW1 6  8  NUP_A MC1496_NPN
QSW2 12 10 NUP_A MC1496_NPN
QSW3 12 8  NUP_B MC1496_NPN
QSW4 6  10 NUP_B MC1496_NPN_MISMATCH

* Lower signal-input stage; its emitters are brought out at pins 2 and 3.
QSIG1 NUP_A 1 2 MC1496_NPN
QSIG2 NUP_B 4 3 MC1496_NPN

* Internal dual current sources and the three nominal 500 ohm resistors shown
* in Figure 23.  QREF is wired as a diode, not used as an active gain stage;
* this is the electrical proxy for the separately drawn internal bias diode.
QTAIL1 2 5 NTAIL1 MC1496_NPN
QTAIL2 3 5 NTAIL2 MC1496_NPN
QREF   5 5 NREF   MC1496_NPN
RTAIL1 NTAIL1 14 500
RTAIL2 NTAIL2 14 500
RREF   NREF   14 500

* Package/device output capacitance. Combined with transistor CJC this
* gives approximately the 5 pF typical single-ended output capacitance.
COUT6  6  14 3.2p
COUT12 12 14 3.2p

* Nominal integrated NPN fit. BF targets the approximately 12 uA typical
* input bias current at I5 = 1 mA; VAF and capacitances target the published
* 40 kohm / 5 pF typical output impedance. Transit-time terms provide
* useful 5-21 MHz behavior but are not a measured semiconductor-process fit.
.MODEL MC1496_NPN NPN (
+ IS=1e-16 BF=90 NF=1 VAF=40 IKF=10m
+ ISE=1e-18 NE=1.5 BR=5 VAR=10 IKR=5m
+ RB=80 RE=1 RC=10
+ CJE=1.5p VJE=0.75 MJE=0.33
+ CJC=0.8p VJC=0.55 MJC=0.33 XCJC=1
+ TF=0.35n TR=10n XTB=1.5 )

.MODEL MC1496_NPN_MISMATCH NPN (
+ IS=1.002e-16 BF=90 NF=1 VAF=40 IKF=10m
+ ISE=1e-18 NE=1.5 BR=5 VAR=10 IKR=5m
+ RB=80 RE=1 RC=10
+ CJE=1.5p VJE=0.75 MJE=0.33
+ CJC=0.8p VJC=0.55 MJC=0.33 XCJC=1
+ TF=0.35n TR=10n XTB=1.5 )

.ENDS MC1496P
