* Three-terminal linear potentiometer with an explicit fixed wiper position.
*
* Pins:
*   1  r0 end
*   2  wiper
*   3  r1 end
*
* POS=0 places the wiper at pin 1; POS=1 places it at pin 3.
* RMIN prevents a zero-ohm branch at the mechanical endpoints.

.subckt POT_POSITION 1 2 3 params: R=1k POS=0.5 RMIN=1m
R0 1 2 {max(R*POS,RMIN)}
R1 2 3 {max(R*(1-POS),RMIN)}
.ends POT_POSITION
