* Parameter-selected SP4T rotary switch for the Triton 540 ten-meter
* segment selector S5.
*
* Pin order:
*   1-4  stationary contacts for the four 500 kHz ten-meter segments
*   5    common/wiper to the VFO sheet S5 input
*
* POS is an integer from 1 through 4.  RON and ROFF are stable simulation
* defaults, not measurements of the original switch.  Contact parasitics,
* break-before-make motion, and contact bounce are omitted.

.subckt SW_ROTARY_1X4 1 2 3 4 5 params: POS=1 RON=20m ROFF=1T

RPOS1 5 1 R={(POS==1) ? RON : ROFF}
RPOS2 5 2 R={(POS==2) ? RON : ROFF}
RPOS3 5 3 R={(POS==3) ? RON : ROFF}
RPOS4 5 4 R={(POS==4) ? RON : ROFF}

.ends SW_ROTARY_1X4
