* Parameter-selected SP5T rotary switch for the Triton 540 bandswitch.
*
* Pin order:
*   1  throw 1
*   2  throw 2
*   3  throw 3
*   4  throw 4
*   5  throw 5
*   6  common/wiper
*
* POS is an integer from 1 through 5.  Exactly one branch is set to RON;
* the other four branches are set to ROFF.  This is a simulation aid, not
* a measured model of the original Ten-Tec switch.

.subckt SW_ROTARY_1X5 1 2 3 4 5 6 params: POS=1 RON=20m ROFF=1T
RPOS1 6 1 R={(POS==1) ? RON : ROFF}
RPOS2 6 2 R={(POS==2) ? RON : ROFF}
RPOS3 6 3 R={(POS==3) ? RON : ROFF}
RPOS4 6 4 R={(POS==4) ? RON : ROFF}
RPOS5 6 5 R={(POS==5) ? RON : ROFF}
.ends SW_ROTARY_1X5
