* Parameter-selected four-pole, five-position rotary switch for the
* Triton 540 VFO bandswitch S89-1.
*
* Pin order:
*    1-5   wafer A throws 1-5
*    6     wafer A common/wiper
*    7-11  wafer B throws 1-5
*   12     wafer B common/wiper
*   13-17  wafer C throws 1-5
*   18     wafer C common/wiper
*   19-23  wafer D throws 1-5
*   24     wafer D common/wiper
*
* POS is an integer from 1 through 5.  The same POS controls all four
* wafers so the model represents the mechanically ganged switch.  S89-1
* uses POS={S4_POS}, sharing the root-sheet parameter with S4A and S4B.
*
* RON and ROFF are stable simulation defaults, not measurements of the
* original Ten-Tec switch.  Parasitics and switching transients are omitted.

.subckt SW_ROTARY_4X5 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 params: POS=1 RON=20m ROFF=1T

RA1 6 1 R={(POS==1) ? RON : ROFF}
RA2 6 2 R={(POS==2) ? RON : ROFF}
RA3 6 3 R={(POS==3) ? RON : ROFF}
RA4 6 4 R={(POS==4) ? RON : ROFF}
RA5 6 5 R={(POS==5) ? RON : ROFF}

RB1 12 7  R={(POS==1) ? RON : ROFF}
RB2 12 8  R={(POS==2) ? RON : ROFF}
RB3 12 9  R={(POS==3) ? RON : ROFF}
RB4 12 10 R={(POS==4) ? RON : ROFF}
RB5 12 11 R={(POS==5) ? RON : ROFF}

RC1 18 13 R={(POS==1) ? RON : ROFF}
RC2 18 14 R={(POS==2) ? RON : ROFF}
RC3 18 15 R={(POS==3) ? RON : ROFF}
RC4 18 16 R={(POS==4) ? RON : ROFF}
RC5 18 17 R={(POS==5) ? RON : ROFF}

RD1 24 19 R={(POS==1) ? RON : ROFF}
RD2 24 20 R={(POS==2) ? RON : ROFF}
RD3 24 21 R={(POS==3) ? RON : ROFF}
RD4 24 22 R={(POS==4) ? RON : ROFF}
RD5 24 23 R={(POS==5) ? RON : ROFF}

.ends SW_ROTARY_4X5
